US06271225B1
In the same manner as in Starting Material Synthesis Example 67 and using 2-bromo-5-methyl-3-thiophenecarboxylic acid, thionyl chloride and 2-amiino-4-nitrophenol, N-(2-hydroxy-5-nitrophenyl)-2-bromo-5-methyl-3-thiophenecarboxamide is obtained.

reactant | 2-bromo-5-methyl-3-thiophenecarboxylic acid | BrC=1SC(=CC1C(=O)O)C | C6H5BrO2S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-amiino-4-nitrophenol | N(C1=CC=CC=C1)C1=C(C=CC(=C1)[N+](=O)[O-])O | C12H10N2O3
product | N-(2-hydroxy-5-nitrophenyl)-2-bromo-5-methyl-3-thiophenecarboxamide | OC1=C(C=C(C=C1)[N+](=O)[O-])NC(=O)C1=C(SC(=C1)C)Br | C12H9BrN2O4S
